US08013186B2
A mixture of trifluoromethanesulfonic acid 2,2-difluoro-1(R)-(4-fluorophenyl)-2-(4-methylsulfanylphenoxy)ethyl ester (1.70 g, 3.8 mmol), 2(R)-amino-3-tritylsulfanylpropionic acid (1.38 g, 38 mmol) and diisiopropylethylamine (2.65 ml, 15.2 mol) in DCM (35 ml) was stirred for 19 h at room temperature. The solvent was evaporated under vacuum and the residue dissolved in ethyl ether (20 ml). The solution was washed with 1N HCl solution and brine. After drying over sodium sulfate, the solvent was evaporated and the crude was purified by flash chromatography, using a mixture of EA/H (1/3) as eluent to give 2(R)-[2,2-difluoro-1(S)-(4-fluorophenyl)-2-(4-methylsulfanylphenoxy)ethylamino]-3-tritylsulfanylpropionic acid (0.693 g, 27%) as a foam.

reactant | trifluoromethanesulfonic acid 2,2-difluoro-1(R)-(4-fluorophenyl)-2-(4-methylsulfanylphenoxy)ethyl ester | 3.8 mmol, 1.70 g | FC([C@@H](C1=CC=C(C=C1)F)OS(=O)(=O)C(F)(F)F)(OC1=CC=C(C=C1)SC)F | C16H12F6O4S2
reactant | 2(R)-amino-3-tritylsulfanylpropionic acid | 38 mmol, 1.38 g | N[C@H](C(=O)O)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21NO2S
solvent | DCM | 35 ml | C(Cl)Cl | CH2Cl2
product | 2(R)-[2,2-difluoro-1(S)-(4-fluorophenyl)-2-(4-methylsulfanylphenoxy)ethylamino]-3-tritylsulfanylpropionic acid | 0.693 g, 27% | FC([C@H](C1=CC=C(C=C1)F)N[C@H](C(=O)O)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(OC1=CC=C(C=C1)SC)F | C37H32F3NO3S2
